US04073898
Preparation Of 2-methylsulfinyl ethylurea
There are slowly added 3 ml of H2O2 (110 volumes) to a well agitated solution of 20 moles of 2-methylthio ethylurea in a mixture of ethanol and formic acid. The solution obtained is agitated for 2 hours after which it is concentrated under reduced pressure. The resulting residue is then crystallized in ethylacetate thus providing white crystals melting at 88° C. in a yield of 85%.

reactant | H2O2 | 3 ml | OO | H2O2
reactant | 2-methylthio ethylurea | 20 moles | CSCCNC(=O)N | C4H10N2OS
solvent | ethanol | C(C)O | C2H6O
solvent | formic acid | C(=O)O | CH2O2
product | 2-methylsulfinyl ethylurea | yield of 85% | CS(=O)CCNC(=O)N | C4H10N2O2S
